6
L3001 1 0 0.001
L3002 2 0 0.00025
L3003 3 0 0.00011111111110000001
C2002 1 0 1e-06 IC=1
C2003 2 0 1e-06 IC=1
C2004 3 0 1e-06 IC=1
E7000 4 0 3 0 1
E7001 5 4 2 0 1
E7002 6 5 1 0 1
.TRAN 0.003 3e-07 BE 0.5